US04582848
A mixture of 3.6 grams (0.01 mole) of 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-(3-dimethylamino propyl)-1H-indole and 0.75 grams of Raney nickel in 75 milliliters of methanol is hydrogenated at 50 psi and 25° C. until thin layer chromatography shows no remaining starting material (18 hours). The mixture is filtered through celite and the celite washed with methanol. The combined methanol filtrates are evaporated in vacuo, and the resulting oil is crystallized from ethanol to give 4-amino-3-[3-(3-dimethylamino propyl)-1H-indol-2-yl]-4-phenyl-3-buten-2-one, (m.p. 268°-269° C.).

reactant | 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-(3-dimethylamino propyl)-1H-indole | 0.01 mole, 3.6 grams | CC1=C(C(=NO1)C1=CC=CC=C1)C=1NC2=CC=CC=C2C1CCCN(C)C | C23H25N3O
catalyst | Raney nickel | 0.75 grams | [Ni] | Ni
solvent | methanol | 75 milliliters | CO | CH4O
product | 4-amino-3-[3-(3-dimethylamino propyl)-1H-indol-2-yl]-4-phenyl-3-buten-2-one | NC(=C(C(C)=O)C=1NC2=CC=CC=C2C1CCCN(C)C)C1=CC=CC=C1 | C23H27N3O
